US07109229B2
(a) 6-Bromo-N,N-dimethyl-1H-indole-3-methanamine
To a solution of 6-bromoindole (7.18 g, 36.6 mmol) in CH2Cl2 (140 mL) was added N,N-dimethylmethylene ammonium chloride (5.48 g, 58.6 mmol, 1.60 eq.) in one portion and the resultant mixture was stirred at rt for 2 h under N2. Water (150 mL) and 1M NaOH (62 mL, 62 mmol) were added, and the reaction mixture was extracted with EtOAc (300 mL). The organic layer was washed with aqueous saturated NaCl and dried (MgSO4). The solvent was removed in vacuo to give 9.29 g (100%) of the title compound.

reactant | 6-bromoindole | 36.6 mmol, 7.18 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | N,N-dimethylmethylene ammonium chloride | 58.6 mmol, 5.48 g, 1.60 eq. | [Cl-].CC=[N+]=CC
reactant | Water | 150 mL | O | H2O
reactant | NaOH | 62 mmol, 1M, 62 mL | [OH-].[Na+]
reactant | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-N,N-dimethyl-1H-indole-3-methanamine | 9.29 g, 100% | BrC1=CC=C2C(=CNC2=C1)CN(C)C | C11H13BrN2
